US04738975
To a mixture of potassium salt of 2-mercaptobenzimidazole (1.45 g), potassium carbonate (1.0 g) and dimethylformamide (10 ml) was added dropwise with stirring a solution of 2-bromomethyl-3,4-dimethoxypyridine (1.18 g) in dimethylformamide (2 ml), and the mixture was stirred at room temperature for 30 minutes, to which chloroform (100 ml) was added. The reaction mixture was washed with water, 1N-sodium hydroxide and water in this order, dried (with sodium sulfate) and evaporated. The residue was purified by column chromatography on silica gel (chloroform-methanol (50:1)), to give 2-[(3,4-dimethoxypyrid-2-yl)methylthio]benzimidazole (1.08 g) as a light yellow oil.

reactant | potassium | [K] | K
reactant | 2-mercaptobenzimidazole | 1.45 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromomethyl-3,4-dimethoxypyridine | 1.18 g | BrCC1=NC=CC(=C1OC)OC | C8H10BrNO2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[(3,4-dimethoxypyrid-2-yl)methylthio]benzimidazole | 1.08 g | COC=1C(=NC=CC1OC)CSC=1NC2=C(N1)C=CC=C2 | C15H15N3O2S
